US06902861B2
Preparation of MSHDS (2-Methoxy-4-(phenylamino)-benzenediazonium hexadecyl sulfate).
3.25 g of 2-methoxy-4-(phenylamino)-benzenediazonium bisulfate (Diversitec, Fort Collins, Colo.) in 50 ml of water was neutralized with 0.8 g of sodium bicarbonate in 25 ml water. 3.45 g of sodium hexadecyl sulfate (TCI America, Portland, Oreg., USA) was dissolved in 150 ml of water at 50° C. The solution of the diazonium salt as slowly added to the hexadecyl sulfate solution with stirring. The reaction mixture was stored in the dark at 0-5° C. for 12 hours. The resulting precipitate was filtered off and dried in vacuum. Yield: 5.4 g.

reactant | 2-methoxy-4-(phenylamino)-benzenediazonium bisulfate | 3.25 g | S([O-])(O)(=O)=O.COC1=C(C=CC(=C1)NC1=CC=CC=C1)[N+]#N
reactant | sodium bicarbonate | 0.8 g | C([O-])(O)=O.[Na+]
reactant | sodium hexadecyl sulfate | 3.45 g | S(=O)(=O)(OCCCCCCCCCCCCCCCC)[O-].[Na+]
reactant | hexadecyl sulfate | S(=O)(=O)(OCCCCCCCCCCCCCCCC)[O-]
solvent | water | 50 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 2-Methoxy-4-(phenylamino)-benzenediazonium hexadecyl sulfate | C(CCCCCCCCCCCCCCC)OS(=O)(=O)[O-].COC1=C(C=CC(=C1)NC1=CC=CC=C1)[N+]#N | InChI=1S/C16H34O4S.C13H12N3O/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-21(17,18)19;1-17-13-9-11(7-8-12(13)16-14)15-10-5-3-2-4-6-10/h2-16H2,1H3,(H,17,18,19);2-9,15H,1H3/q;+1/p-1
